US05849755
3-(5-Chloro-2-methoxybenzamido)-6-(methylaminothiocarbonylaminosulfonyl)-7-methylchroman
1.64 g (4 mmol) of 3-(5-chloro-2-methoxybenzamido)-6-sulfamoyl-7-methylchroman were dissolved in 10 ml of dry DMSO, and 1.65 g (12 mmol) of finely powdered potassium carbonate and 0.35 g (4.8 mmol) of methyl isothiocyanate were added. After the mixture had been stirred at 80° C. for 25 minutes, it was cooled, introduced into ice-water, clarified with charcoal and acidified to pH 1. The precipitate was filtered off with suction, dried, purified over a silica gel column using ethyl acetate/toluene 2:1 and recrystallized from ethanol. Melting point: 207°-208° C.

reactant | 3-(5-chloro-2-methoxybenzamido)-6-sulfamoyl-7-methylchroman | 4 mmol, 1.64 g | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=C(C=C3C2)S(N)(=O)=O)C)C1)OC | C18H19ClN2O5S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl isothiocyanate | 4.8 mmol, 0.35 g | CN=C=S | C2H3NS
reactant | charcoal | C | CH4
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 3-(5-Chloro-2-methoxybenzamido)-6-(methylaminothiocarbonylaminosulfonyl)-7-methylchroman | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=C(C=C3C2)S(=O)(=O)NC(=S)NC)C)C1)OC | C20H22ClN3O5S2
